US06716851B2
4-(2-Cyano-4,5-dimethoxyanilino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 2-cyano-4,5-dimethoxyaniline (48 mg, 0.288 mmol) similar to Example 185 and isolated as a solid (8 mg, 10%). 1H NMR (CDCl3): 9.62 (d, J=1.4 Hz, 1H), 8.69 (m, 2H), 7.43 (dd, J=5.4, 1.5 Hz, 1H), 7.07 (s, 1H), 6.93 (s, 1H), 6.70 (s, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-cyano-4,5-dimethoxyaniline | 0.288 mmol, 48 mg | C(#N)C1=C(N)C=C(C(=C1)OC)OC | C9H10N2O2
product | 4-(2-Cyano-4,5-dimethoxyanilino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | C(#N)C1=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=C(C(=C1)OC)OC | C19H14F3N5O2
